US07151105B2
Step 1: 2-(3-Chloro-5-hydroxymethyl-pyridin-2-yl)-2-methyl-propionitrile
To a magnetically stirring solution of 5,6 dichloronicotinic acid (2.7 g, 14.06 mmol) in THF (70.0 mL), was added isobutyronitrile (6.37 mL, 69.66 mmol) followed by potassium hexamethyldisilazide 0.5 M in toluene (70 mL). The resulting orange mixture was stirred at 60° C. overnight. Solvents were removed and residue portioned between ethyl acetate (100 mL) and 1N HCl (100 mL). The layers of the resulting reaction mixture were separated and the aqueous layer was extracted three additional times with ethyl acetate. The organic layers were combined and dried over Na2SO4, filtered and concentrated in vacuo to a yellow solid (3.34 g). This crude residue was dissolved in THF (80 mL) and reaction cooled to 0° C. BH3.THF 1M solution in THF (22.30 mL) was added and reaction stirred at 0° C. for 4 hours, then room temperature overnight. Solid K2CO3 (2 g) and water (100 mL) were added and the aqueous layer was extracted three additional times with ethyl acetate. The organics were combined dried over Na2SO4, filtered and concentrated in vacuo to a clear oil which was purified by silica gel chromatography (hexanes) to give the title compound as a white solid (0.95 g, 32%). ESIMS (MH+): 210.

reactant | 5,6 dichloronicotinic acid | 14.06 mmol, 2.7 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | isobutyronitrile | 69.66 mmol, 6.37 mL | C(C(C)C)#N | C4H7N
reactant | potassium hexamethyldisilazide | 0.5 M | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | BH3.THF | 1M | B.C1CCOC1
reactant | K2CO3 | 2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 70.0 mL | C1CCOC1 | C4H8O
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 22.30 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-(3-Chloro-5-hydroxymethyl-pyridin-2-yl)-2-methyl-propionitrile | 0.95 g, 32% | ClC=1C(=NC=C(C1)CO)C(C#N)(C)C | C10H11ClN2O
